US06953792B2
(RS)-α-Methyl-8-phenyl-1,4-dioxaspiro[4.5]decane-8-methanol
A solution of 8-phenyl-1,4-dioxaspiro[4.5]decane-8-carboxaldehyde (J. Med. Chem. 1975, 18, 593-599; 4 g, 16.2 mmol) in tetrahydrofuran (100 mL) was added dropwise to a solution of methyl magnesium bromide (3.0M in ether, 8.1 mL, 24.3 mmol) in tetrahydrofuran (50 mL) at 0° C. The mixture was allowed to warm to room temperature over 4 hours, then aqueous ammonium chloride (saturated, 75 mL), water (75 mL) and ethyl acetate (100 mL) were added. The layers were separated and the organic fraction was dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a colorless solid (4.03 g, 96%). 1H NMR (360 MHz, CDCl3) δ 0.96 (3H, d, J 6.5 Hz), 1.12 (1H, br s), 1.40-1.66 (4H, m), 1.76-1.86 (2H, m), 2.24-2.28 (1H, m), 2.46-2.51 (1H, m), 3.61-3.64 (1H, m), 3.58-3.96 (4H, m), and 7.21-7.38 (5H, m).

reactant | 8-phenyl-1,4-dioxaspiro[4.5]decane-8-carboxaldehyde | 16.2 mmol, 4 g | C1(=CC=CC=C1)C1(CCC2(OCCO2)CC1)C=O | C15H18O3
reactant | methyl magnesium bromide | 24.3 mmol, 3.0M, 8.1 mL | C[Mg]Br
reactant | ammonium chloride | 75 mL | [Cl-].[NH4+]
reactant | water | 75 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (RS)-α-Methyl-8-phenyl-1,4-dioxaspiro[4.5]decane-8-methanol | 4.03 g, 96% | CC(O)C1(CCC2(OCCO2)CC1)C1=CC=CC=C1 | C16H22O3
